US06265411B1
A solution of 5-aminosulphonyloxindole (265 mg, 1.25 mmol), (prepared as described for the starting material in Example 60), in DMF (2.5 ml) was added to a suspension of sodium hydride (50 mg, 1.25 mmol, prewashed with pentane) in DMF (1.5 ml). The mixture was stirred for 30 minutes at ambient temperature and 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline (265 mg, 1.25 mmol), (prepared as described for the starting material in Example 74), was added followed by DMF (2 ml) and DMSO (0.5 ml). The mixture was heated at 60° C. for 45 minutes, then allowed to cool and partitioned between ether and water. The aqueous layer was separated and adjusted to pH7 with 1M hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and ether, and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 2.8M ethereal hydrogen chloride (1 ml) was added. The volatiles were removed by evaporation, the solid was triturated with ether, collected by filtration and dried under vacuum to give 4-(5-aminosulphonyloxindol-3-yl)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline hydrochloride (106 mg, 50%).

reactant | 5-aminosulphonyloxindole | 1.25 mmol, 265 mg | NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H8N2O3S
reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline | 1.25 mmol, 265 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOCCOC | C14H17ClN2O4
reactant | DMSO | 0.5 ml | CS(=O)C | C2H6OS
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(5-aminosulphonyloxindol-3-yl)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline hydrochloride | 106 mg, 50% | Cl.NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOCCOC | InChI=1S/C22H24N4O7S.ClH/c1-30-5-6-32-7-8-33-19-11-17-15(10-18(19)31-2)21(25-12-24-17)20-14-9-13(34(23,28)29)3-4-16(14)26-22(20)27;/h3-4,9-12,20H,5-8H2,1-2H3,(H,26,27)(H2,23,28,29);1H
